US07456176B2
4-[7-(2-chloro-5-nitro-phenyl)-5-methyl-benzo[1,2,4]triazin-3-ylamino]-N-(2-pyrrolidin-1-yl-ethyl)-benzenesulfonamide (0.41 mmol, 1.0 equiv) was dissolved in 20 mL of MeOH, and the reaction was evacuated of air by vacuum and placed under a blanket of argon. Pd/C (10% by wt) was added to the reaction, followed by another evacuation of argon, and by blanketing with hydrogen. The reaction was stirred under hydrogen blanket for 4 h, filtered through Celite, and concentrated by reduced pressure to give a crude residue, which was precipitated using EtOAc/hexanes (1:5 v/v) to give 4-[7-(5-amino-2-chloro-phenyl)-5-methyl-benzo[1,2,4]triazin-3-ylamino]-N-(2-pyrrolidin-1-yl-ethyl)-benzenesulfonamide, as a dark green solid (89.4 mg, 41% yield). 1H NMR (DMSO-d6): δ 1.61 (m,4H), 2.34 (m, 4H), 2.42 (t, J=6.9 Hz, 2H), 2.71 (s, 3H), 2.85 (t, J=7.1 Hz, 2H), 5.43 (s, 1H), 6.65 (dd, J=8.7 Hz, J=2.8 Hz, 1H), 6.73 (d, J=2.7 Hz,1H), 7.21 (d, J=8.7 Hz, 1H), 7.83 (d, J=8.9 Hz, 2H), 7.89 (s, 1H), 8.15 (s, 1H), 8.21 (d, J=8.8 Hz, 2H). MS (ES+) m/z=538, LC retention time 2.13 min.

reactant | 4-[7-(2-chloro-5-nitro-phenyl)-5-methyl-benzo[1,2,4]triazin-3-ylamino]-N-(2-pyrrolidin-1-yl-ethyl)-benzenesulfonamide | 0.41 mmol, 1.0 equiv | ClC1=C(C=C(C=C1)[N+](=O)[O-])C1=CC2=C(N=C(N=N2)NC2=CC=C(C=C2)S(=O)(=O)NCCN2CCCC2)C(=C1)C | C26H26ClN7O4S
solvent | MeOH | 20 mL | CO | CH4O
product | 4-[7-(5-amino-2-chloro-phenyl)-5-methyl-benzo[1,2,4]triazin-3-ylamino]-N-(2-pyrrolidin-1-yl-ethyl)-benzenesulfonamide | NC=1C=CC(=C(C1)C1=CC2=C(N=C(N=N2)NC2=CC=C(C=C2)S(=O)(=O)NCCN2CCCC2)C(=C1)C)Cl | C26H28ClN7O2S
